US04587331
A solution of 20 g of glucosamine hydrochloride, 20 ml of glacial acetic acid, 80 ml of water and 9.1 ml of phenylhydrazine was heated on a steam bath for one hour, then cooled and filtered. The filtrate was hydrogenated in a Parr apparatus with Raney nickel catalyst until the uptake of hydrogen ceased. This mixture was then filtered, the filtrate was treated with activated charcoal and refiltered through diatomaceous earth, giving a green solution. A 6.31 ml portion of this green solution was treated with 0.24 g of sodium bicarbonate and a suspension of 1.66 g of potassium tetrachloroplatinate in 8 ml of water. The resulting reddish brown solution was stirred overnight, then cooled to 4° C. for 3 hours and the resulting solid collected. A 100 mg portion of this solid was stirred with 15 ml of hot water and then filtered through diatomaceous earth. The filtrate was cooled giving a solid which was collected, giving 90 mg of 1,2-diamino-1,2-dideoxy-D-glucitol, compound with platinum chloride (1:1) as yellow grains, mp 265° C. (dec.).

reactant | glucosamine hydrochloride | 20 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | phenylhydrazine | 9.1 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium bicarbonate | 0.24 g | C([O-])(O)=O.[Na+]
solvent | water | 8 ml | O | H2O
catalyst | potassium tetrachloroplatinate | 1.66 g | Cl[Pt-2](Cl)(Cl)Cl.[K+].[K+]
solvent | water | 80 ml | O | H2O
product | 1,2-diamino-1,2-dideoxy-D-glucitol | 90 mg | NC[C@@H]([C@@H](O)[C@H](O)[C@H](O)CO)N | C6H16N2O4
